US06258775B1
(b) Methyl 2-[1-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)vinyl]phenylcarboxylate.
A solution of 6-[1-(2-iodophenyl)vinyl]-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (9.5 g, 22 mmol), palladium diacetate (560 mg, 2.5 mmol)-and tributylamine (12 ml, 50 mmol) in methanol (500 ml) is heated for 3 h at 100° C. under a pressure of carbon monoxide (3 bar). After concentration on an evaporator under vacuum at 40° C., the oil obtained is diluted in ethyl acetate and washed three times with water. The product is purified by flash chromatography on a column of silica.

reactant | 6-[1-(2-iodophenyl)vinyl]-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | 22 mmol, 9.5 g | IC1=C(C=CC=C1)C(=C)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C22H25I
reactant | tributylamine | 50 mmol, 12 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium diacetate | 2.5 mmol, 560 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | Methyl 2-[1-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)vinyl]phenylcarboxylate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=C)C1=C(C=CC=C1)C(=O)OC)C | C24H28O2
